US07314936B2
To a solution of Pd(OAc)2 (0.06 g, 0.06 eq.), PPh3 (0.32 g, 0.24 eq.) and carbonic acid 2-ethoxycarbonyloxymethyl-allyl ester ethyl ester (1.23 g, 5.30 mmol, 1.0 eq., prepared following Tetrahedron 1998, 54(49), 14885-14904) in CH3CN (30 ml) was added 1-cyclopent-1-enyl-pyrrolidine (1.01 g, 1.4 eq.) and the resulting mixture was heated at 45° C. for 35 minutes. Then water (15 mL) was introduced and the reaction mixture was heated at 50° C. for 1 h, cooled to room temperature and diluted with EtOAc (30 mL). The separated aqueous phase was extracted twice with EtOAc. The combined organic phase was dried over MgSO4, filtered and concentrated. The residue was purified by silica gel chromatography (10% to 15% EtOAc-hexanes) to give 3-methylene-bicyclo[3,2,1]octan-8-one (0.14 g, 70%) as a pale yellow liquid.

reactant | PPh3 | 0.32 g, 0.24 eq. | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | carbonic acid 2-ethoxycarbonyloxymethyl-allyl ester ethyl ester | 5.30 mmol, 1.23 g, 1.0 eq. | C(C)OC(OCC(=C)COC(=O)OCC)=O | C10H16O6
reactant | 1-cyclopent-1-enyl-pyrrolidine | 1.01 g, 1.4 eq. | C1(=CCCC1)N1CCCC1 | C9H15N
reactant | water | 15 mL | O | H2O
solvent | CH3CN | 30 ml | CC#N | C2H3N
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(OAc)2 | 0.06 g, 0.06 eq. | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3-methylene-bicyclo[3,2,1]octan-8-one | 0.14 g, 70% | C=C1CC2CCC(C1)C2=O | C9H12O
